US07517996B2
(Step 3) Synthesis of tert-butyl 3-(4-{[(3-methoxy-3-oxopropyl)thio]methyl}phenyl)-3-oxopropionate
To a solution (15 ml) of tert-butyl 3-hydroxy-3-(4-{[(3-methoxy-3-oxopropyl)thio]methyl}phenyl)propionate (695 mg, 1.96 mmol) in dichloromethane were added sodium acetate (810 mg, 9.87 mmol) and pyridinium dichromate (885 mg, 2.35 mmol), and the mixture was stirred overnight at room temperature. Ethyl ether was added to the reaction mixture, and the mixture was filtered. The filtrate was concentrated under reduced pressure, and the obtained crude product was purified by silica gel chromatography (hexane:ethyl acetate=5:1) to give the title compound (494 mg, 71%).

reactant | tert-butyl 3-hydroxy-3-(4-{[(3-methoxy-3-oxopropyl)thio]methyl}phenyl)propionate | 1.96 mmol, 15 ml, 695 mg | OC(CC(=O)OC(C)(C)C)C1=CC=C(C=C1)CSCCC(=O)OC | C18H26O5S
reactant | sodium acetate | 9.87 mmol, 810 mg | C(C)(=O)[O-].[Na+]
reactant | pyridinium dichromate | 2.35 mmol, 885 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | Ethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl 3-(4-{[(3-methoxy-3-oxopropyl)thio]methyl}phenyl)-3-oxopropionate | 494 mg, 71% | COC(CCSCC1=CC=C(C=C1)C(CC(=O)OC(C)(C)C)=O)=O | C18H24O5S
